Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / nadolol / Imitrex / omeprazole / tramadol
 
Attending: ___.
 
Chief Complaint:
Uterine fibroids
 
Major Surgical or Invasive Procedure:
Uterine artery embolization
 
History of Present Illness:
Ms. ___ is a ___ year old female with history of GERD, 
migraines, uterine fibroids, menorrhagia, and urinary frequency 
who is s/p ___ uterine artery embolization for symptomatic 
uterine fibroids on ___, admitted for overnight inpatient 
monitoring.  
 She was recently seen by ___ outpatient on ___ for 
symptomatic uterine fibroids. She states that starting 6 months 
ago, she started to notice pelvic pain. Over the last 6 months, 
she has noticed increasing abdominal distention, bloating, 
constipation, urinary frequency, and menorrhagia. Menstrual 
periods occur monthly, previously used to last ___ days, however 
over last several months increased to ___ days duration. This 
was associated with heavy menorrhagia with clots. Urinary 
frequency is constant throughout the day, but does not disturb 
her sleep. Patient is followed by OB/GYN and EMB on ___ was 
benign. After discussion of treatment options with ___, patient 
elected for uterine artery embolization.  
 Per ___ report, patient is s/p uterine artery embolization via L 
radial artery access, tolerated the procedure well with no 
complications.  
 Upon arrival to the floor, the patient confirmed the above 
history. She states she has lower right-sided pelvic pain that 
is rated ___. She was previously nauseous post-op, however 
nausea has resolved. Denies fevers, chills, SOB, chest pain, 
diarrhea, or constipation.  

 
Past Medical History:
Past Medical History:  
 Uterine Fibroids  
 GERD  
 Migraines  
 Right shoulder tendinitis and bursitis due to trauma.

PAST SURGICAL HISTORY:  
 C-section  
 Left benign breast biopsy  
 Right shoulder surgery  

 
Social History:
___
Family History:
MGM- uterine ca/breast ca (d)  
 Aunt- DM, HTN, ___  
 Aunt- ___  
 Aunt- CAH, Psoriasis, DM, Asthma, HTN  
 Aunt- CAH, HTN  
 Sister- HTN  
 Aunt- ___ Ca  

 
Physical Exam:
ON ADMISSION
======================
VS: 97.7 132/78 96 18 96%RA  
 Gen: Comfortable, in NAD  
 HEENT: NC/AT, PERRL, EOMI.  
 Neck: Supple, no cervical lymphadenopathy, no JVD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, or 
rhonchi  
 CV: +S1/S2, regular rate and rhythm, no murmurs rubs or gallops 
 
 Abd: Soft, non-distended. Mildly tender to palpation in 
suprapubic region. No rebound or guarding. No organomegaly.  
 Ext: L radial access site bandaged. No visible oozing or 
bleeding. 2+ peripheral pulses.  
 Neuro: CN II-XII grossly intact, no focal neurological 
deficits. Motor strength ___ all 4 extremities. Sensation 
intact.  

ON DISCHARGE
=======================
Vitals:  97.6, BP 104/62, HR 78, RR 20, 100 Ra 
General: alert, oriented, no acute distress
HEENT: sclera anicteric
Lungs: clear to auscultation bilaterally, normal WOB  
CV: regular rate and rhythm, normal S1 + S2, no murmurs
Abdomen: soft, non-tender, non-distended 
Ext: warm, well perfused, no edema.  Left radial access site
c/d/I, dressed.
Neuro: MAE, answers questions appropriately
 
Pertinent Results:
___ 06:46AM BLOOD WBC-10.8* RBC-4.00 Hgb-11.8 Hct-35.7 
MCV-89 MCH-29.5 MCHC-33.1 RDW-13.0 RDWSD-43.0 Plt ___
___ 06:46AM BLOOD Glucose-93 UreaN-10 Creat-0.6 Na-139 
K-4.3 Cl-101 HCO3-29 AnGap-9*
___ 07:20PM BLOOD Glucose-140* UreaN-10 Creat-0.6 Na-140 
K-4.5 Cl-101 HCO3-25 AnGap-14
___ 06:46AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.9
___ 07:20PM BLOOD Calcium-8.9 Phos-4.4 Mg-1.8
___ 07:20PM BLOOD ___ PTT-26.2 ___ year old female with history of uterine fibroids w/ heavy 
menorrhagia, urinary frequency, migraines, and GERD who 
underwent ___ uterine artery embolization ___ for symptomatic 
fibroids, admitted for overnight inpatient monitoring and pain 
control. No complications from the procedure were apparent 
during the hospital stay. Pain was controlled with dilaudid PCA 
overnight, the following morning she was transitioned to PO 
naproxen and oxycodone for pain control. She was started on a 
bowel regimen as well. She was discharged with ObGyn follow-up.

TRANSITIONAL ISSUES:
====================
New Meds:
-Naproxen 500mg q12h x7 days
-Oxycodone ___ q4h PRN: pain
-Colace, Miralax to prevent constipation
-Zofran for nausea

#CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyproheptadine 2 mg PO QHS 
2. naratriptan 2.5 mg oral ONCE MR1:PRN 
3. Ranitidine 300 mg PO BID 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
2.  Naproxen 500 mg PO Q12H 
RX *naproxen 500 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*14 Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN Nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours Disp 
#*12 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*36 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 17 g by mouth daily Disp 
#*14 Packet Refills:*0 
6.  Cyproheptadine 2 mg PO QHS  
7.  naratriptan 2.5 mg oral ONCE MR1:PRN headache  
8.  Ranitidine 300 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uterine fibroids s/p embolization
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

Why you were admitted:
-You needed monitoring and pain control after your embolization 
procedure

What happened in the hospital:
-You received IV pain medication overnight
-There were no signs of complications and you were switched to 
oral pain medication

What you should do at home:
-Continue taking all your medications as prescribed
-Please keep your scheduled appointments below
-Take your bowel medications to prevent constipation

Thank you for allowing us to be involved in your care, we wish 
you all the best!

Your ___ Team
 
Followup Instructions:
___